### PR TITLE
chore: add the consequences of an empty alphabet type on Language and OmegaLanguage

### PR DESCRIPTION
**Pull request by ctchou**
This PR proves some consequences of an empty alphabet type (denoted by `Symbol`) on Language and OmegaLanguage:
(1) The only possible languages over an empty alphabet are {} and {[]}.
(2) The only possible omega-language over an empty alphabet is {}.
Furthermore, (1) enables the assumption `[Inhabited Symbol]` to be removed from the regular language closure properties `IsRegular.mul` and `IsRegular.kstar`.  Now no closure property for regular languages has that assumption.

### CODE REVIEW

File: Cslib/Computability/Languages/Language.lean [hunk 1]
```diff
@@ -18,13 +18,35 @@ as defined and developed in `Mathlib.Computability.Language`.
...
 @[expose] public section
 
+namespace List
+
+variable {α : Type*}
+
+/-- `[]` is the only list over an empty type. -/
+theorem eq_nil_ofIsEmpty [IsEmpty α] (xl : List α) : xl = [] := by
+  have hu := List.uniqueOfIsEmpty (α := α)
+  grind [Unique.eq_default xl, Unique.eq_default ([] : List α)]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]:
```suggestion
  simp [Unique.eq_default]
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 2]
```diff
@@ -98,6 +98,11 @@ def equiv : ωLanguage α ≃ Set (ωSequence α) where
 instance : CompleteAtomicBooleanAlgebra (ωLanguage α) :=
   equiv.completeAtomicBooleanAlgebra
 
+/-- `⊥` is the only possible ω-language over an empty type. -/
+theorem eq_bot_ofIsEmpty [IsEmpty α] (p : ωLanguage α) : p = ⊥ := by
+  ext xs
+  grind [IsEmpty.false xs]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: Let's not use `grind` so eagerly for such a simple proof:

```suggestion
  ext xs
  exfalso
  exact IsEmpty.false xs
```

File: Cslib/Foundations/Data/OmegaSequence/Init.lean [hunk 3]
```diff
@@ -32,6 +32,11 @@ variable (m n : ℕ) (x y : List α) (a b : ωSequence α)
 instance [Inhabited α] : Inhabited (ωSequence α) :=
   ⟨ωSequence.const default⟩
 
+instance [h : IsEmpty α] : IsEmpty (ωSequence α) := by
+  apply IsEmpty.mk
+  intro xs
+  exact IsEmpty.false (xs 0)
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Init.lean]: Personal preference maybe, but I prefer being concise:

```suggestion
instance [h : IsEmpty α] : IsEmpty (ωSequence α) where
  false xs := IsEmpty.false (xs 0)
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Languages/Language.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Init.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Init.lean]: Fixed.

**Review by chenson2018 — APPROVED** [review]
